US07632838B2
2-{4-[(3-chlorophenyl)sulfonyl]piperidin-1-yl}nicotinonitrile
Using the procedure from Example 7A, 4-[(3-chlorophenyl)sulfonyl]piperidine (100 mg, 0.38 mmol) was reacted with 2-chloro-3-cyanopyridine (108 mg, 0.76 mmol), DIEA (0.2 ml, 1.14) and 1,4-dioxane (0.3 ml) to afford the title compound (91 mg), a yellow solid, in 62% yield.

reactant | 4-[(3-chlorophenyl)sulfonyl]piperidine | 0.38 mmol, 100 mg | ClC=1C=C(C=CC1)S(=O)(=O)C1CCNCC1 | C11H14ClNO2S
reactant | 2-chloro-3-cyanopyridine | 0.76 mmol, 108 mg | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | DIEA | 0.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
product | 2-{4-[(3-chlorophenyl)sulfonyl]piperidin-1-yl}nicotinonitrile | 91 mg, 62% yield | ClC=1C=C(C=CC1)S(=O)(=O)C1CCN(CC1)C1=C(C#N)C=CC=N1 | C17H16ClN3O2S
